US04514418
1.87 g of 2,2-dichloro-3,3-dimethyl-1-chloromethylcyclopropane and 1.0 g of potassium thiocyanate were suspended in 20 ml of ethanol, and the suspension was refluxed for 12 hours. Ethanol was evaporated, and 20 ml of water was added. The mixture was extracted with toluene. The toluene layer was washed with water and dried over sodium sulfate. The toluene was then evaporated under reduced pressure to give 1.80 g of 2,2-dichloro-3,3-dimethylcyclopropylmethyl thiocyanate, the desired compound shown above. The boiling point of the product was 115° C. at 200 mmHg.

reactant | 2,2-dichloro-3,3-dimethyl-1-chloromethylcyclopropane | 1.87 g | ClC1(C(C1(C)C)CCl)Cl | C6H9Cl3
reactant | potassium thiocyanate | 1.0 g | [S-]C#N.[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,2-dichloro-3,3-dimethylcyclopropylmethyl thiocyanate | 1.80 g | ClC1(C(C1(C)C)CSC#N)Cl | C7H9Cl2NS
